### PR TITLE
[Merged by Bors] - feat: Generalize absNorm to fractional ideals

### PR DESCRIPTION
**Pull request by xroblot**
This PR defines the absolute ideal norm of a fractional ideal `I : FractionalIdeal R⁰ K` where
`K` is a fraction field of `R` as a zero-preserving group homomorphism with values in `ℚ` and proves that it generalises the norm on (integral) ideals  (and some other classical result). 

Also in this PR:
- Add the directory `Mathlib/RingTheory/FractionalIdeal` and move the file `Mathlib/RingTheory/FractionalIdeal.lean` to `Mathlib/RingTheory/FractionalIdeal/Basic.lean`. The new results are in `Mathlib/RingTheory/FractionalIdeal/Norm.lean`
- Define the `numerator` and `denominator` of a fractional ideal. These are used to define the norm. Also define a linear equiv between a fractional ideal and its `numerator`.
- Several technical lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 1]
```diff
@@ -166,6 +166,12 @@ theorem coe_equivMapOfInjective_apply (f : F) (i : Injective f) (p : Submodule R
   rfl
 #align submodule.coe_equiv_map_of_injective_apply Submodule.coe_equivMapOfInjective_apply
 
+@[simp]
+theorem map_equivMapOfInjective_symm_apply (f : F) (i : Injective f) (p : Submodule R M)
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Submodule/Map.lean:170]:
```suggestion
theorem map_equivMapOfInjective_symm_apply {f : F} (i : Injective f) (p : Submodule R M)
```

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 2]
```diff
@@ -134,6 +134,40 @@ protected theorem isFractional (I : FractionalIdeal S P) : IsFractional S (I : S
...
+`FractionalIdeal.den_mul_eq_num`. -/
+noncomputable def den (I : FractionalIdeal S P) : S :=
+  ⟨I.2.choose, I.2.choose_spec.1⟩
+
+/-- An ideal of `R` such that `I.den • I.num = I`, see `FractionalIdeal.den` and
+`FractionalIdeal.den_mul_eq_num`. -/
+noncomputable def num (I : FractionalIdeal S P) : Ideal R :=
+  (I.den • (I : Submodule R P)).comap (Algebra.linearMap R P)
+
+theorem den_mul_eq_num (I : FractionalIdeal S P) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean:147]: Maybe `den_mul_self_eq_num` is a better name, but this not very important.

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 3]
```diff
@@ -134,6 +134,40 @@ protected theorem isFractional (I : FractionalIdeal S P) : IsFractional S (I : S
...
+    I.den • (I : Submodule R P) = Submodule.map (Algebra.linearMap R P) I.num := by
+  rw [den, num, Submodule.map_comap_eq]
+  refine (inf_of_le_right ?_).symm
+  rintro _ ⟨a, ha, rfl⟩
+  exact I.2.choose_spec.2 a ha
+
+/-- The linear equivalence between the fractional ideal `I` and the integral ideal `I.num`
+defined by mapping `x` to `den I • x`. -/
+noncomputable def equivNum [NoZeroSMulDivisors R P]
+    (h_inj : Function.Injective (algebraMap R P)) {I : FractionalIdeal S P}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean:157]: Isn't `h_inj` automatic since you assume `NoZeroSMulDivisors R P`?

Similarly below.

File: Mathlib/RingTheory/FractionalIdeal/Norm.lean [hunk 4]
```diff
@@ -0,0 +1,145 @@
...
+import Mathlib.RingTheory.FractionalIdeal.Basic
+import Mathlib.RingTheory.Ideal.Norm
+
+/-!
+
+# Fractional ideal norms
+
+This file defines the absolute ideal norm of a fractional ideal `I : FractionalIdeal R⁰ K` where
+`K` is a fraction field of `R`. The norm is defined by
+`FractionalIdeal.absNorm I = Ideal.absNorm I.num / |Algebra.norm ℤ I.den|` where `I.num` is a
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FractionalIdeal/Norm.lean:15]:
```suggestion
`FractionalIdeal.absNorm I = Ideal.absNorm I.num / |Algebra.norm ℤ I.den|` where `I.num` is an
```

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 5]
```diff
@@ -134,6 +134,40 @@ protected theorem isFractional (I : FractionalIdeal S P) : IsFractional S (I : S
   I.prop
 #align fractional_ideal.is_fractional FractionalIdeal.isFractional
 
+/-- An element of `S` such that `I.den • I.num = I`, see `FractionalIdeal.num` and
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean:137]:
```suggestion
  /-- An element of `S` such that `I.den • I = I.num`, see `FractionalIdeal.num` and
```
Similarly below.

File: Mathlib/RingTheory/FractionalIdeal/Norm.lean [hunk 6]
```diff
@@ -0,0 +1,145 @@
...
+-/
+
+
+variable {R : Type*} [CommRing R]
+
+namespace FractionalIdeal
+
+open scoped Pointwise nonZeroDivisors
+
+variable [IsDomain R] [Infinite R] [IsDedekindDomain R] [Module.Free ℤ R] [Module.Finite ℤ R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FractionalIdeal/Norm.lean:36]: I know you didn't introduce this, but I really think we should have `Nontrivial R` (or maybe this is even automatic since it is a dedekind domain) instead of `Infinite R`: since it is free this is enough.

I don't think Lean is able to find `Infinite R` by itself, but you can add the instance if you don't want to remove `Infinite R` everywhere. Or maybe just add a TODO if this is too much work for one PR.

File: Mathlib/RingTheory/FractionalIdeal/Norm.lean [hunk 7]
```diff
@@ -0,0 +1,145 @@
...
+      Algebra.smul_def]
+    rfl]
+  rw [Basis.toMatrix_smul, Matrix.det_mul, abs_mul, ← Algebra.norm_eq_matrix_det,
+    Algebra.norm_localization ℤ ℤ⁰, show (Algebra.norm ℤ (den I: R) : ℚ) =
+    algebraMap ℤ ℚ (Algebra.norm ℤ (den I: R)) by rfl, mul_div_assoc, mul_div_cancel' _ (by
+    rw [ne_eq, abs_eq_zero, IsFractionRing.to_map_eq_zero_iff, Algebra.norm_eq_zero_iff_of_basis b]
+    exact nonZeroDivisors.coe_ne_zero _)]
+
+@[simp]
+theorem absNorm_span_singleton [IsDomain K] [Module.Finite ℚ K] (x : K) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FractionalIdeal/Norm.lean:129]: I am a bit confused by `IsDomain K`. Wasn't `K` the fraction field of `R`?

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/Submodule/Map.lean:170]: Although this change makes sense, the fact that the two results above: `equivMapOfInjective` and `coe_equivMapOfInjective_apply` have explicit `f` , make me feel that this one should too for consistency. Of course, the other option would be to make `f` implicit in all three results.

Comment (riccardobrasca) [reply Mathlib/Algebra/Module/Submodule/Map.lean:170]: As you prefer!

File: Mathlib/RingTheory/FractionalIdeal/Norm.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Norm.lean:36]: Yeah, the hypothesis `Infinite R` is used only at one place in `Ideal.absNorm` and should indeed be replaced by `Nontrivial R` and the result that `Module.Free S R` + `Infinite S` + `Nontrivial R` implies `Infinite R`. I'll open a PR with this change to merge before this one.

Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Norm.lean:36]: #9684

File: Mathlib/RingTheory/FractionalIdeal/Norm.lean (hunk 7 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Norm.lean:129]: Yes. thanks. This is unnecessary

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Basic.lean]: Indeed, I just need to add a `Nontrivial` hypothesis instead.

**Review by riccardobrasca — APPROVED** [review]
The file `FractionalIdeal.Basic` is getting huge, we should split it... but in another PR, thanks!

bors merge
